US07915443B2
(S)-5-[(4-phenoxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that describe in Example 425 a mixture of (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 1-ethynyl-4-phenoxybenzene were reacted to give the title compound as an off-white solid (95 mg, 68%).

reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | 1-ethynyl-4-phenoxybenzene | C(#C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C14H10O
product | (S)-5-[(4-phenoxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 95 mg, 68% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C27H20N2O3S
